US04230864
25 g of this 5-trifluoromethyl-2-pyridone was then added to 100 cc of phosphorous oxychloride and 40 g of phosphorous pentachloride and heated to 100° C. to 8 hours, the excess phosphorous oxychloride removed by distillation at reduced pressure and the residue remaining taken up in 200 cc of water. The pH was adjusted to 7 with sodium hydroxide. Extraction of the solution three times with 100 cc of with chloroform gave 2-chloro-5-trifluoromethylpyridine on removal of the solvent.

reactant | 5-trifluoromethyl-2-pyridone | 25 g | FC(C=1C=CC(NC1)=O)(F)F | C6H4F3NO
reactant | phosphorous pentachloride | 40 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorous oxychloride | 100 cc | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-trifluoromethylpyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
